US06066736
(b) Synthesis of 3-methoxy-5-methylpyrazine-2-carboxamide
Under argon, 6 g (60.5 mmol) of 2-amino-2-cyanoacetamide was initially charged in 67 g of methanol. 1.67 g (9.3 mmol) of sodium methoxide solution (30%) was added and the mixture was stirred for at 20° C. 2 hours. After neutralization with 0.558 g (9.3 mmol) of acetic acid, 11.55 g (64.1 mmol) of methylglyoxal solution (40%) was added. The mixture was stirred at 20° C. for 2 hours and then at 50° C. for 2 hours. The solvent was distilled off and the 3-methoxy-5-methylpyrazine-2-carboxamide was purified by column chromatography (eluent: ethyl acetate/methanol 4:1). This gave 5 g of 3-methoxy-5-methylpyrazine-2-carboxamide. The yield was 50 percent. Other data concerning the title product was:

reactant | 2-amino-2-cyanoacetamide | 60.5 mmol, 6 g | NC(C(=O)N)C#N | C3H5N3O
reactant | sodium methoxide | 9.3 mmol, 1.67 g | C[O-].[Na+]
reactant | acetic acid | 9.3 mmol, 0.558 g | C(C)(=O)O | C2H4O2
reactant | methylglyoxal | 64.1 mmol, 11.55 g | CC(=O)C=O | C3H4O2
solvent | methanol | 67 g | CO | CH4O
product | 3-methoxy-5-methylpyrazine-2-carboxamide | yield was 50 percent | COC=1C(=NC=C(N1)C)C(=O)N | C7H9N3O2
